US05981533
225 mg (1.50 mmol) of 3-formyl-benzoic acid are added to a solution of 261 mg (1.00 mmol) of 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine in 26 ml of methanol, 13 ml of DMEU and 120 mg (2.0 mmol) of acetic acid under a N2 atmosphere. The reaction mixture is stirred for 1 hour, during which time a solid precipitates, and then 440 mg (7.0 mmol) of NaCNBH3 are added. Stirring is carried out for 5 days, the suspension changing to a clear solution. The methanol is evaporated off using a rotary evaporator. The residue is poured into 0.6 liter of water and stirred for 3 hours to complete the reaction. Filtering with suction, washing with water and diethyl ether, stirring in hot ethanol, cooling and filtering yield 3-(3-carboxy-benzylamino)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine (3-{[4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl-amino]methyl}-benzoic acid); m.p. 294-296° C.; HPLC: TRet (Grad5-40)=20.1; FAB-MS: (M+H)+ =395.

reactant | 3-formyl-benzoic acid | 1.50 mmol, 225 mg | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | 1.00 mmol, 261 mg | NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C11H9ClN6
reactant | acetic acid | 2.0 mmol, 120 mg | C(C)(=O)O | C2H4O2
reactant | NaCNBH3 | 7.0 mmol, 440 mg | [BH3-]C#N.[Na+]
solvent | methanol | 26 ml | CO | CH4O
solvent | DMEU | 13 ml | CN1CCN(C1=O)C | C5H10N2O
product | 3-(3-carboxy-benzylamino)-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | C(=O)(O)C=1C=C(CNC2=NNC3=NC=NC(=C32)NC3=CC(=CC=C3)Cl)C=CC1 | C19H15ClN6O2
